### PR TITLE
[Merged by Bors] - feat(KrullDimension): height and 0, ⊤, ⊥, coe

### PR DESCRIPTION
**Pull request by nomeata**
Next parts from PR #15524: relating `height` to 0, ⊤, ⊥, coe.

From the Carleson project

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
+    apply exists_series_of_le_height x (n := n)
+    simp [h]
+  · intro h
+    rw [height_eq_iSup_last_eq, iSup_subtype', ENat.iSup_coe_eq_top, bddAbove_def]
+    push_neg
+    intro n
+    obtain ⟨p, hlast, hp⟩ := h (n+1)
+    exact ⟨p.length, ⟨⟨⟨p, hlast⟩, by simp [hp]⟩, by simp [hp]⟩⟩
+
+lemma height_eq_zero_iff (x : α) : height x = 0 ↔ (∀ y, ¬(y < x)) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:271]:
```suggestion
lemma height_eq_zero_iff {x : α} : height x = 0 ↔ IsMin x := by
```
and I would think that the `_iff` is inferrable
```suggestion
lemma height_eq_zero {x : α} : height x = 0 ↔ IsMin x := by
```

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
+    rw [hx] at h; norm_cast at h
+    obtain ⟨p, hp, hlen⟩ := exists_series_of_height_eq_coe x hx
+    use p ⟨n, by omega⟩
+    constructor
+    · rw [← hp]
+      apply LTSeries.strictMono
+      simp [Fin.last]; omega
+    · exact height_eq_index_of_length_eq_height_last (by simp [hlen, hp, hx]) ⟨n, by omega⟩
+  · intro ⟨y, hyx, hy⟩
+    exact hy ▸ height_strictMono hyx (lt_of_le_of_lt (height_mono hyx.le) hfin)
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:291]: `Iff` is a structure so you get to do
```suggestion
    n < height x ↔ ∃ y, y < x ∧ height y = n where
  mp h := by
    obtain ⟨m, hx : height x = m⟩ := Option.ne_none_iff_exists'.mp (LT.lt.ne_top hfin)
    rw [hx] at h; norm_cast at h
    obtain ⟨p, hp, hlen⟩ := exists_series_of_height_eq_coe x hx
    use p ⟨n, by omega⟩
    constructor
    · rw [← hp]
      apply LTSeries.strictMono
      simp [Fin.last]; omega
    · exact height_eq_index_of_length_eq_height_last (by simp [hlen, hp, hx]) ⟨n, by omega⟩
  mpr := by
    intro ⟨y, hyx, hy⟩
    exact hy ▸ height_strictMono hyx (lt_of_le_of_lt (height_mono hyx.le) hfin)
```

**Review by YaelDillies — COMMENTED** [review]
It's worrying that these are not one-liners from the complete lattice API. Are we missing API for locally finite complete lattices? (except `ENat` is not actually locally finite everywhere, hmm...)

File: Mathlib/Order/KrullDimension.lean (hunk 1 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:271]: There are lemmas like
```
lemma height_eq_zero_iff_isMin (a : α) :
    IsMin a ↔ height a = 0 := by
```
coming up next (https://github.com/leanprover-community/mathlib4/pull/15524/files#diff-f01f6dfbb94ae0c3a2d89d315b11b5fa88e9f864823c53d72130a3fe82adefb9R462). I guess then I can just delete this?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:271]: Oh yes probably

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean]: Included it here, as I need it below.

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
 
+/--
+The height of an element is infinite if there exist series of arbitrary length ending in that
+element.
+-/
+lemma height_eq_top_iff (x : α) :
+    height x = ⊤ ↔ ∀ n, ∃ p : LTSeries α, p.last = x ∧ p.length = n := by
+  constructor
+  · intro h n
+    apply exists_series_of_le_height x (n := n)
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:262]:
```suggestion
    height x = ⊤ ↔ ∀ n, ∃ p : LTSeries α, p.last = x ∧ p.length = n where
  mp h n := by
    apply exists_series_of_le_height x (n := n)
```
if you like

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
+    exact ⟨p.length, ⟨⟨⟨p, hlast⟩, by simp [hp]⟩, by simp [hp]⟩⟩
+
+@[simp] lemma height_eq_zero (x : α) : height x = 0 ↔ IsMin x := by
+  simpa [isMin_iff_forall_not_lt] using height_le_coe_iff x 0
+
+protected alias ⟨_, IsMin.height_eq_zero⟩ := height_eq_zero
+
+@[simp] lemma height_bot (α : Type*) [Preorder α] [OrderBot α] : height (⊥ : α) = 0 := by simp
+
+lemma coe_lt_height_iff (x : α) (n : ℕ) (hfin : height x < ⊤) :
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:278]:
```suggestion
lemma coe_lt_height_iff {x : α} {n : ℕ} (hfin : height x < ⊤) :
```
since it's an iff. Same everywhere else

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
+    n < height x ↔ (∃ y, y < x ∧ height y = n) where
+  mp h := by
+    obtain ⟨m, hx : height x = m⟩ := Option.ne_none_iff_exists'.mp (LT.lt.ne_top hfin)
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:281]:
```suggestion
    obtain ⟨m, hx : height x = m⟩ := Option.ne_none_iff_exists'.mp hfin.ne_top
```

File: Mathlib/Order/KrullDimension.lean [hunk 6]
```diff
@@ -251,6 +251,73 @@ lemma height_le_coe_iff (x : α) (n : ℕ) :
...
+    constructor
+    · rw [← hp]
+      apply LTSeries.strictMono
+      simp [Fin.last]; omega
+    · exact height_eq_index_of_length_eq_height_last (by simp [hlen, hp, hx]) ⟨n, by omega⟩
+  mpr := fun ⟨y, hyx, hy⟩ =>
+    hy ▸ height_strictMono hyx (lt_of_le_of_lt (height_mono hyx.le) hfin)
+
+lemma height_eq_coe_add_one_iff (x : α) (n : ℕ) : height x = n + 1 ↔
+    height x < ⊤ ∧ (∃ y < x, height y = n) ∧ (∀ y, y < x → height y ≤ n) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:294]: Can you avoid starting newlines in the middle of an inlined statement?
```suggestion
lemma height_eq_coe_add_one_iff (x : α) (n : ℕ) :
    height x = n + 1 ↔ height x < ⊤ ∧ (∃ y < x, height y = n) ∧ (∀ y < x, height y ≤ n) := by
```
same below

File: Mathlib/Order/KrullDimension.lean [hunk 7]
```diff
@@ -243,14 +243,81 @@ lemma height_eq_iSup_lt_height (x : α) : height x = ⨆ (y : α) (_  : y < x),
...
+  trans n < height x ∧ height x ≤ n + 1
+  · rw [le_antisymm_iff, and_comm]
+    simp [hfin, ENat.lt_add_one_iff, ENat.add_one_le_iff]
+  · congr! 1
+    · exact coe_lt_height_iff hfin
+    · simpa [hfin, ENat.lt_add_one_iff] using height_le_coe_iff (x := x) (n := n+1)
+
+lemma height_eq_coe_iff {x : α} {n : ℕ} :
+    height x = n ↔
+      height x < ⊤ ∧ (n = 0 ∨ ∃ y < x, height y = n - 1) ∧ (∀ y, y < x → height y < n) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:307]:
```suggestion
      height x < ⊤ ∧ (n = 0 ∨ ∃ y < x, height y = n - 1) ∧ (∀ y < x, height y < n) := by
```
Does it still need a linebreak with that?

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:307]: Yes, still. And the variant with `coheight` (to be added later) even more.

Are linebreaks worth worrying about that much?

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean]: No. Was just making sure you did actually need it

File: Mathlib/Order/KrullDimension.lean [hunk 8]
```diff
@@ -243,14 +243,81 @@ lemma height_eq_iSup_lt_height (x : α) : height x = ⨆ (y : α) (_  : y < x),
     apply iSup₂_le; intro p hp
     apply le_iSup₂_of_le (p.snoc x (hp ▸ hyx)) (by simp) (by simp)
 
-lemma height_le_coe_iff (x : α) (n : ℕ) :
-    height x ≤ n ↔ (∀ y, y < x → height y < n) := by
+lemma height_le_coe_iff {x : α} {n : ℕ} :
+    height x ≤ n ↔ (∀ y < x, height y < n) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:247]:
```suggestion
    height x ≤ n ↔ ∀ y < x, height y < n := by
```

File: Mathlib/Order/KrullDimension.lean [hunk 9]
```diff
@@ -243,14 +243,81 @@ lemma height_eq_iSup_lt_height (x : α) : height x = ⨆ (y : α) (_  : y < x),
...
   conv_lhs => rw [height_eq_iSup_lt_height, iSup₂_le_iff]
   congr! 2 with y _
   cases height y
   · simp
   · norm_cast
 
+/--
+The height of an element is infinite if there exist series of arbitrary length ending in that
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:255]:
```suggestion
The height of an element is infinite iff there exist series of arbitrary length ending in that
```

**Review by YaelDillies — COMMENTED** [review]
Can you check what the `ENat` API calls `Nat.cast`? Is it `coe` or `natCast`?

maintainer delegate

**Comment by nomeata** [comment]
> Can you check what the ENat API calls Nat.cast? Is it coe or natCast?

Good point. I see many more `coe` than `cast`, though:
https://loogle.lean-lang.org/?q=ENat%2C+%22coe%22
https://loogle.lean-lang.org/?q=ENat%2C+%22cast%22

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
